US06727264B1
N-(3-{1-[3-(CYCLOPENTYLOXY)-4-METHOXYBENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-(cyclopentyloxy)-4-methoxybenzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 451.1 (M+H)+.

reactant | 3-(cyclopentyloxy)-4-methoxybenzaldehyde | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(CYCLOPENTYLOXY)-4-METHOXYBENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C1(CCCC1)OC=1C=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1OC | C28H38N2O3
